US07648984B2
(e) 1,1-dimethylethyl {1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}{2-[(trifluoroacetyl)amino]ethyl}carbamate
Bis(1,1-dimethylethyl) dicarbonate (870 mg, 4.9 mmol) and 2,2,2-trifluoro-N-[2-({1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}amino)ethyl]acetamide (1.4 g, 3.65 mmol) were mixed in THF (50 mL) and stirred at 25° C. for 12 h. The solution was concentrated and the resulting solid was used without further purification (1.8 g, quantitive): LC-MS m/z 484 (M+H)+.

reactant | Bis(1,1-dimethylethyl) dicarbonate | 4.9 mmol, 870 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2,2,2-trifluoro-N-[2-({1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}amino)ethyl]acetamide | 3.65 mmol, 1.4 g | FC(C(=O)NCCNC1CN(CC1)C1=CC=NC2=CC=C(N=C12)OC)(F)F | C17H20F3N5O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl {1-[6-(methyloxy)-1,5-naphthyridin-4-yl]-3-pyrrolidinyl}{2-[(trifluoroacetyl)amino]ethyl}carbamate | COC=1N=C2C(=CC=NC2=CC1)N1CC(CC1)N(C(OC(C)(C)C)=O)CCNC(C(F)(F)F)=O | C22H28F3N5O4
